*****************************************************************
* NXP BUK7K8R7-40E
*
* Polarity N-Channel
* Ratings 40V/8.500000E-003OHMS/30A
*
* Date Created Mon Jul 01 05:08:38 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K8R7-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 1000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00376238098270856 TC=0.0059430670819231,2.06206167845691E-05
RBD 9 4 0.00521273608042052 TC=0.0059430670819231,2.06206167845691E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 9.49017563338237e-10
RG 1 2 1.51584

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1027.56
+ -10	1026.61
+ -8	1025.12
+ -6	1021.78
+ -5	1015.79
+ -4	1113.03
+ -3	1057.5
+ -2	920.447
+ -1	784.936
+ -0.5	707.879
+ -0.2	655.418
+ -0.1	653.862
+ 0	602.3901
+ 0.1	504.08552
+ 0.2	503.53248
+ 0.5	388.51592
+ 1	299.61292
+ 2	248.29732
+ 3	225.18904
+ 4	210.782
+ 5	200.71532
+ 6	193.04624
+ 8	182.11628
+ 10	174.65832
+ 12	169.1396
+ 15	162.93884
+ 16	161.12068
+ 20	155.18404
+ 25	149.11688
+ 30	144.34836
+ 32	142.67812



.MODEL MINT NMOS(Vto=4.32058246790648 Kp=5.983386e+001 Nfs=1650000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=8.72210312176728e-13
+ N=1 M=0.65 VJ=0.5 Fc=0.5 Cjo=9.263672e-10 Tt=1.0464e-08)

.ENDS

